US08084483B2
Glycine ethyl ester hydrochloride (0.21 g, 1.48 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.36 g, 1.86 mmol), 1-hydroxy-7-azabenzotriazole (0.25 g, 1.86 mmol) and 2,6-lutidine (0.43 mL, 3.71 mmol, 3.0) are added to a solution of 2-(5-bromo-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)acetic acid (0.5 g, 1.24 mmol) in dichloromethane (6.18 mL), and the mixture is stirred at room temperature for 18 hours. Purification by SGC (0-100% EtOAc/Hexanes) affords 2-(2-(5-bromo-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)acetamido)acetic acid.

reactant | Glycine ethyl ester hydrochloride | 1.48 mmol, 0.21 g | Cl.C(C)OC(CN)=O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.86 mmol, 0.36 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxy-7-azabenzotriazole | 1.86 mmol, 0.25 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 2,6-lutidine | 3.71 mmol, 0.43 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | 2-(5-bromo-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)acetic acid | 1.24 mmol, 0.5 g | BrC=1N(C(=NN1)SCC(=O)O)C1=CC=C(C2=CC=CC=C12)C1CC1 | C17H14BrN3O2S
solvent | dichloromethane | 6.18 mL | ClCCl | CH2Cl2
product | 2-(2-(5-bromo-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)acetamido)acetic acid | BrC=1N(C(=NN1)SCC(=O)NCC(=O)O)C1=CC=C(C2=CC=CC=C12)C1CC1 | C19H17BrN4O3S
